US07851463B2
138.1 3-Phenyl-1-propyl-piperidine
3-Phenyl-piperidine (4.0 g, 24.81 mmol) and propionaldehyde (1.8 ml, 24.81 mmol) were dissolved in tetrahydrofuran (100 ml). Acetic acid (2.14 ml, 37.21 mmol) and sodium trisacetoxyborohydride (10.515 g, 49.61 mmol) were sequentially added to the reaction mixture and stirred for 1 hour at room temperature. The reaction mixture was concentrated and the residue was dissolved in aqueous NaHCO3 solution (50 ml) and diethyl ether (100 ml). The organic phases was dried over magnesium sulfate, filtered, and evaporated to dryness to yield the crude product (4.6 g, 87% purity).

reactant | 3-Phenyl-piperidine | 24.81 mmol, 4.0 g | C1(=CC=CC=C1)C1CNCCC1 | C11H15N
reactant | propionaldehyde | 24.81 mmol, 1.8 ml | C(CC)=O | C3H6O
reactant | Acetic acid | 37.21 mmol, 2.14 ml | C(C)(=O)O | C2H4O2
reactant | sodium trisacetoxyborohydride | 49.61 mmol, 10.515 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-Phenyl-1-propyl-piperidine | 4.6 g, 87% | C1(=CC=CC=C1)C1CN(CCC1)CCC | C14H21N
